US08957203B2
To a solution of (2S)-4-methyloct-7-en-2-ol (39 g, 0.274 moles) in pyridine (400 mL) was added 4-(dimethylamino)pyridine (DMAP, 1.67 g, 0.013 moles) and the solution was stirred for 10 min. P-toluenesulfonyl chloride (60 g, 0.315 moles) was added to the reaction mass at 0° C. The reaction mass was allowed to come to room temperature and stirred overnight. Pyridine was removed under reduced pressure and the residue was diluted with ethyl acetate (200 mL). The organic solution was washed with aqueous 1.5 N HCl solution, saturated aq. bicarbonate solution, brine solution, dried over anhydrous Na2SO4, filter, and concentrated under reduced pressure to get crude compound (2S)-4-methyloct-7-en-2-yl 4-methylbenzenesulfonate (54 g, 61%). The crude compound was taken to the next step without further purification.

reactant | (2S)-4-methyloct-7-en-2-ol | 0.274 moles, 39 g | CC(C[C@H](C)O)CCC=C | C9H18O
reactant | P-toluenesulfonyl chloride | 0.315 moles, 60 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)pyridine | 0.013 moles, 1.67 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (2S)-4-methyloct-7-en-2-yl 4-methylbenzenesulfonate | 54 g, 61% | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H](C)CC(CCC=C)C | C16H24O3S
